US08975265B2
A solution of {1-[4-(7-amino-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester [prepared in a manner analogous to that described in Int-21-0] (225 mg, 0.50 mmol), acetic anhydride (0.061 mL, 6.4 mmol, 1.3 equiv) and pyridine (0.10 mL, 1.24 mmol, 2.5 equiv) in CH2Cl2 (7 mL) was stirred at room temperature for 48 h. The resulting mixture was added to water (10 mL). The resulting mixture was extracted with CH2Cl2 (3×10 mL). The combined organic phases were dried (Na2SO4 anh) and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera Flash NH2 Snap 10 reverse phase column; 100% CH2Cl2 for 2 min., gradient to 95% CH2Cl2: 5% MeOH over 1 min.; 95% CH2Cl2: 5% MeOH for 4.5 min., gradient to 90% CH2Cl2: 10% MeOH over 4 min., 90% CH2Cl2: 10% MeOH for 3 min., gradient to 80% CH2Cl2: 20% MeOH over 5 min., 80% CH2Cl2: 20% MeOH for 4.8 min.) to give {1-[4-(7-acetylamino-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (151 mg, 61%):

reactant | {1-[4-(7-amino-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)N)C1C1=CC=CC=C1)=O | C28H30N4O2
reactant | acetic anhydride | 6.4 mmol, 0.061 mL, 1.3 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 1.24 mmol, 0.10 mL, 2.5 equiv | N1=CC=CC=C1 | C5H5N
reactant | water | 10 mL | O | H2O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | {1-[4-(7-acetylamino-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 151 mg, 61% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)NC(C)=O)C1C1=CC=CC=C1)=O | C30H32N4O3
